US07312241B2
3,5-Dimethoxybenzaldehyde (2.50 g, 15.04 mmol), bromobenzene (2.60 g, 16.55 mmol), and n-butyl lithium (33.10 ml, 13.24 mmol) were treated in the same manner as described above for the synthesis of (2,3-dihydrobenzo[1,4]dioxin-6-yl)-(3,5-dimethoxyphenyl)methanol. The crude material was purified via flash column chromatography (10% EtOAc in hexane gradient to 20% EtOAc in hexane in about 30 min.) to give (3,5-Dimethoxy-phenyl)-phenyl-methanol as a light yellow oil (3.14 g, 85%). HPLC purity was 83% at 3.01 min. (50/50 ACN/0.1% H3PO4). 1HNMR (CDCl3) δ 7.39-7.25 (m, 4H, Ar), 6.54 (d, J=2 Hz, 2H, Ar), 6.50-6.34(m, 2H, Ar), 5.74 (d, J=3 Hz, 1H, CHOH), 3.75 (s, 6H, 2OCH3), 2.34 (d, J=3 Hz, 1H, OH). The product was carried over to the next step.

reactant | 3,5-Dimethoxybenzaldehyde | 15.04 mmol, 2.50 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | bromobenzene | 16.55 mmol, 2.60 g | BrC1=CC=CC=C1 | C6H5Br
reactant | n-butyl lithium | 13.24 mmol, 33.10 ml | C(CCC)[Li]
reactant | (2,3-dihydrobenzo[1,4]dioxin-6-yl)-(3,5-dimethoxyphenyl)methanol | O1CCOC2=C1C=CC(=C2)C(O)C2=CC(=CC(=C2)OC)OC | C17H18O5
product | (3,5-Dimethoxy-phenyl)-phenyl-methanol | 3.14 g, 85% | COC=1C=C(C=C(C1)OC)C(O)C1=CC=CC=C1 | C15H16O3
